US04661501
In the same manner as described in Synthesis Example 2, the equivalent mixture of α,α-dimethyl-(4-chlorophenyl)acetaldehyde and 3-phenoxyacetophenone was treated to give 1-(3-phenoxyphenyl)-4-(4-chlorophenyl)-4-methylpentane.

reactant | α,α-dimethyl-(4-chlorophenyl)acetaldehyde | CC(C=O)(C)C1=CC=C(C=C1)Cl | C10H11ClO
reactant | 3-phenoxyacetophenone | CC(=O)C1=CC(=CC=C1)OC2=CC=CC=C2 | C14H12O2
product | 1-(3-phenoxyphenyl)-4-(4-chlorophenyl)-4-methylpentane | O(C1=CC=CC=C1)C=1C=C(C=CC1)CCCC(C)(C)C1=CC=C(C=C1)Cl | C24H25ClO
